US08110581B2
Step 4. (5S)-7-[2-chloro-5-(trifluoromethyl)phenyl]-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of 2-bromo-1-chloro-4-(trifluoromethyl)benzene (26 mg, 0.0001 mol), tris(dibenzylideneacetone)dipalladium(0) (2 mg, 0.000002 mol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (5 mg, 0.00001 mol) in 1,4-dioxane (0.5 mL, 0.006 mol) was stirred under N2 (g) for 20 min. To this mixture were added (5S)-2-{trans-4-[(triethylsilyl)oxy]cyclohexyl}-2,7-diazaspiro[4.5]decan-1-one (30 mg, 0.00008 mol) and sodium tert-butoxide (11.8 mg, 0.000123 mol), and the resulting mixture was degassed and stirred at 100° C. for 16 h. At this time 1M TBAF (tetra-n-butylammonium fluoride) in THF (0.3 mL) was added dropwise to the reaction mixture and the solution was stirred at rt for 1 h. The volatiles were removed in-vacuo and the residue was purified by prep-HPLC to afford the desired product. LC-MS: 431.1 (M+H)+.

reactant | 2-bromo-1-chloro-4-(trifluoromethyl)benzene | 0.0001 mol, 26 mg | BrC1=C(C=CC(=C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.00001 mol, 5 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 1,4-dioxane | 0.006 mol, 0.5 mL | O1CCOCC1 | C4H8O2
reactant | (5S)-2-{trans-4-[(triethylsilyl)oxy]cyclohexyl}-2,7-diazaspiro[4.5]decan-1-one | 0.00008 mol, 30 mg | C(C)[Si](O[C@@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CNCCC2)=O)(CC)CC | C20H38N2O2Si
reactant | sodium tert-butoxide | 0.000123 mol, 11.8 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.000002 mol, 2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (5S)-7-[2-chloro-5-(trifluoromethyl)phenyl]-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | ClC1=C(C=C(C=C1)C(F)(F)F)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1 | C21H26ClF3N2O2
